US07435735B2
Step 10: 8-(4-Fluorobenzyl)-10-hydroxy-2,4-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A mixture of 8-(4-fluorobenzyl)-10-benzyloxy-2,4-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (27 mg, 0.06 mmol) and Pearlman's catalyst (2.5 mg, 20% Pd(OH)2 on carbon) in ethanol (5 mL) was stirred under an atmosphere of hydrogen gas (1 atm) at room temperature for 1 hr. The reaction product precipitated out of solution. The suspension was treated with chloroform, and the mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue recrystallized from ethanol to provide the title product.

reactant | 8-(4-fluorobenzyl)-10-benzyloxy-2,4-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 0.06 mmol, 27 mg | FC1=CC=C(CN2C(C=3N(CC2)C2=C(C3OCC3=CC=CC=C3)C(N(C=C2C)C)=O)=O)C=C1 | C26H24FN3O3
catalyst | Pearlman's catalyst | 2.5 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 8-(4-Fluorobenzyl)-10-hydroxy-2,4-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | FC1=CC=C(CN2C(C=3N(CC2)C2=C(C3O)C(N(C=C2C)C)=O)=O)C=C1 | C19H18FN3O3
